US07732626B2
3′-(hydroxymethyl)-2,6-dimethylbiphenyl-4-ol
A solution of 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde (6.95 q, 30.7 mmol) in a mixed solvent of methanol (30 mL) and tetrahydrofuran (60 mL) was ice-cooled, sodium borohydride (90%, 1.29 g, 30.7 mmol) was added, and the mixture was stirred for 20 hr under nitrogen atmosphere, during which the mixture was allowed to gradually warm to room temperature. The reaction mixture was concentrated under reduced pressure, the residue was treated with diluted hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were recrystallized from heptane-ethyl acetate to give the title compound (6.56 g, yield 93%) as colorless crystals.

reactant | 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde | 30.7 mmol | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C15H14O2
reactant | methanol | 30 mL | CO | CH4O
reactant | sodium borohydride | 30.7 mmol, 1.29 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 3′-(hydroxymethyl)-2,6-dimethylbiphenyl-4-ol | 6.56 g, yield 93% | OCC=1C=C(C=CC1)C1=C(C=C(C=C1C)O)C | C15H16O2
